US08580147B2
1,2-Difluoro-3-hexyloxybenzene (s-1) (100.0 g) and THF (1,000 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and cooled to −74° C. sec-Butyllithium (1.00M; n-hexane and cyclohexane solution; 357 ml) was added dropwise in the temperature range of −74° C. to −70° C., and the stirring was continued for another 2 hours. 1,4-Dioxaspiro[4.5]decan-8-one (s-2) (72.9 g) in a THF (500 ml) solution was added dropwise in the temperature range of −75° C. to −70° C., and the stirring was continued for 8 hours while the mixture was allowed to return to 25° C. The resulting reaction mixture was poured into a vessel containing an aqueous solution of ammonium chloride (1,000 ml) and ethyl acetate (1,000 ml) and mixed with them. The mixture was then allowed to stand until it had separated into organic and aqueous layers, and the extraction was carried out. The resulting organic layers were separated, and washed with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. p-Toluenesulfonic acid (4.5 g) and toluene (300 ml) were mixed with the residue, and the mixture was heated to reflux for 2 hours, while distilled water was removed. After the reaction solution had been cooled to 30° C., water (500 ml) and toluene (900 ml) were added and mixed with it. The mixture was then allowed to stand until it had separated into two layers of organic and aqueous layers, and the extraction into an organic layer was carried out. The resulting organic layers were separated, and washed with a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The resulting solution was purified by column chromatography using silica gel as a stationary phase powder and toluene as an eluent. The product was dissolved in a mixed solvent of toluene (250 ml) and Solmix A-11 (250 ml), and Pd/C (0.5 g) was added. The mixture was stirred at room temperature under a hydrogen atmosphere until hydrogen absorption had ceased. After the completion of the reaction, Pd/C was removed, and the solvent was distilled off. The resulting residue was purified by column chromatography using silica gel as a stationary phase powder and toluene as an eluent, and further purified by recrystallization from heptane and dried to give 8-(2,3-difluoro-4-hexyloxyphenyl)-1,4-dioxaspiro[4.5]decane (s-3) (144.5 g). The yield based on the compound (s-1) was 87.3%.

reactant | 1,2-Difluoro-3-hexyloxybenzene | 100.0 g | FC1=C(C(=CC=C1)OCCCCCC)F | C12H16F2O
reactant | sec-Butyllithium | 1.00M, 357 ml | C(C)(CC)[Li]
reactant | 1,4-Dioxaspiro[4.5]decan-8-one | 72.9 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | ammonium chloride | 1,000 ml | [Cl-].[NH4+]
solvent | ethyl acetate | 1,000 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 1,000 ml | C1CCOC1 | C4H8O
product | 8-(2,3-difluoro-4-hexyloxyphenyl)-1,4-dioxaspiro[4.5]decane | 144.5 g | FC1=C(C=CC(=C1F)OCCCCCC)C1CCC2(OCCO2)CC1 | C20H28F2O3
